US09326987B2
5-Bromo-1-[(4-methylphenyl)sulfonyl]-1H-pyrazolo[3,4-b]pyridine
5-Bromo-1H-pyrazolo[3,4-b]pyridine (1.39 g) in DMF (6 ml) was cooled in an ice-bath under nitrogen and treated portionwise with sodium hydride (0.308 g) (60% dispersion in oil) over a period of about 15 min. The reaction was left to stir in the ice-bath for 40 min, then treated with tosyl chloride (1.469 g) in DMF (2 ml). The reaction was left to stir in the ice-bath under nitrogen and the ice left to melt overnight. The reaction was stirred for a total of 20 h. The reaction was treated cautiously with water (6 ml) and stirred for 5 min. The reaction was poured onto water (60 ml), filtered and the residue treated with DCM (20 ml). The mixture was stirred, and then pushed through a frit into a cartridge with a hydrophobic frit. The solution was allowed to drip through, and then this procedure was repeated with further DCM (2×15 ml). The combined filtrates were evaporated to dryness to give the title compound as a brown solid, 1.802 g.

reactant | 5-Bromo-1H-pyrazolo[3,4-b]pyridine | 1.39 g | BrC=1C=C2C(=NC1)NN=C2 | C6H4BrN3
reactant | sodium hydride | 0.308 g | [H-].[Na+]
reactant | tosyl chloride | 1.469 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | water | 6 ml | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-1-[(4-methylphenyl)sulfonyl]-1H-pyrazolo[3,4-b]pyridine | BrC=1C=C2C(=NC1)N(N=C2)S(=O)(=O)C2=CC=C(C=C2)C | C13H10BrN3O2S
